US03946021
2,6-BIS(4-DIETHYLAMINOBUTYRYL)-N-METHYLCARBAZOLE
To a solution of 2.5 equivalents of 3-diethylaminopropylmagnesium chloride and 3-diethylaminopropylchloride in tetrahydrofuran, is added dropwise a solution of 1-equivalent of 2,6-dicyano-N-methylcarbazole, which is prepared by converting 2,6-carbazoledicarboxamide to the corresponding N-methyl derivative by treatment with dimethylsulfate in the presence of sodium hydroxide and subsequently dehydrating the diamide by heating with phosphorous pentoxide, in tetrahydrofuran. When the addition is complete the reaction mixture is gently refluxed for 2 hours, then stirred at room temperature for several hours. The resulting complex is decomposed by treatment with saturated ammonium chloride, and the organic material is extracted with chloroform. The chloroform layer is treated with dilute HCl with warming. The aqueous solution is filtered, made alkaline and extracted with ether. The ether extract is dried over magnesium sulfate and evaporated to dryness to give the desired product.

reactant | 3-diethylaminopropylmagnesium chloride | 2.5 equivalents | C(C)N(CCC[Mg]Cl)CC
reactant | 3-diethylaminopropylchloride | C(C)N(CCCCl)CC | C7H16ClN
reactant | 2,6-dicyano-N-methylcarbazole | 1-equivalent | C(#N)C1=CC=2N(C3=CC=C(C=C3C2C=C1)C#N)C | C15H9N3
reactant | 2,6-carbazoledicarboxamide | C1=C(C=CC=2C3=CC(=CC=C3NC12)C(=O)N)C(=O)N | C14H11N3O2
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diamide | CN(C)C(=O)N=NC(=O)N(C)C | C6H12N4O2
reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-BIS(4-DIETHYLAMINOBUTYRYL)-N-METHYLCARBAZOLE | C(C)N(CCCC(=O)C1=CC=2N(C3=CC=C(C=C3C2C=C1)C(CCCN(CC)CC)=O)C)CC | C29H41N3O2
